US07625932B2
Preparation of 2-(4-bromophenyl)benzenecarbonitrile
Add 2-(4-bromophenyl)benzamide (12.0 g, 0.04345 moles, preparation 60), acetonitrile (120 mL), and triethylamine (9.23 grams, 0.0912 moles) to a 250 mL 3-neck round-bottom flask equipped with a magnetic stirrer, internal temperature probe, ice-water bath, and addition funnel. Cool the contents of the 250 mL 3-neck round-bottom flask to 3° C. Add trifluoroacetic anhydride (9.6 grams, 0.0456 moles) to the reaction mixture via the addition funnel over 5 minutes. The reaction mixture warms to 12-15° C. Remove the ice-water bath, and allow the reaction mixture to warm to 20° C. and stir the mixture for 45 minutes. Add additional trifluoroacetic anhydride (0.8 g, 0.0038 moles) and stir the reaction mixture at 22° C. for 75 minutes. Add water (120 mL) and cool the resulting suspension to 3° C. Stir the suspension at 3° C. for 15 minutes. Collect the precipitate by filtration and rinse the filter cake three times with 15 mL of 30% acetonitrile and 70% water. Vacuum (15-25 mm) dry the filter cake at 45° C. to provide the title compound (10.6 g, 0.041 moles) in 94.5% yield. 1H NMR (CDCl3, 500.0 MHz): δ 7.75 (app. d, 1H, J=8); 7.64 (td, 1H, J=1.5, 7.5); 7.61 (app. d, 2H, J=8.5); 7.5-7.4 (m, 4H).

reactant | 2-(4-bromophenyl)benzamide | 0.04345 moles, 12.0 g | BrC1=CC=C(C=C1)C1=C(C(=O)N)C=CC=C1 | C13H10BrNO
reactant | acetonitrile | 120 mL | C(C)#N | C2H3N
reactant | triethylamine | 0.0912 moles, 9.23 grams | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 0.0456 moles, 9.6 grams | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
catalyst | trifluoroacetic anhydride | 0.0038 moles, 0.8 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | water | 120 mL | O | H2O
product | 2-(4-bromophenyl)benzenecarbonitrile | 0.041 moles, 10.6 g, 94.5% yield | BrC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C13H8BrN
